US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), 3-chloro-4-(piperazin-1-yl)benzonitrile hydrochloride (118 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propionitrile (2 ml) and heated in a closed vial at 90° C. for 2 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo and purified using flash column chromatography on silica gel (80 g SiO2, dichloromethane—methanol 100:0-95:5). The resulting solid was suspended in ether (7 mL), stirred until a fine suspension resulted, filtered and the solid was dried in vacuum to afford (S)-3-chloro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile (135.4 mg, 0.320 mmol, 70.2% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.80-2.03 (m, 3H) 2.10-2.25 (m, 1H) 2.39-2.61 (m, 4H) 2.94-3.19 (m, 4H) 3.35-3.46 (m, 3H) 3.51-3.65 (m, 1H) 3.91-4.05 (m, 1H) 6.97 (d, J=1.77 Hz, 1H) 7.22 (d, J=8.59 Hz, 1H) 7.62 (d, J=1.52 Hz, 1H) 7.74 (dd, J=8.46, 1.89 Hz, 1H) 7.93 (d, J=1.77 Hz, 1H) 10.44 (s, 1H); [M+H] calc'd for C22H23ClN6O, 423. found, 423; melting point 213-215° C.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 3-chloro-4-(piperazin-1-yl)benzonitrile hydrochloride | 0.456 mmol, 118 mg | Cl.ClC=1C=C(C#N)C=CC1N1CCNCC1
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propionitrile | 2 ml | C(CC)#N | C3H5N
product | (S)-3-chloro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 0.320 mmol, 135.4 mg, 70.2% yield | ClC=1C=C(C#N)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C22H23ClN6O
